US07462639B2
Benzyl-3-[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-urea was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.48 mmol) and benzylisocyanate (0.05 ml, 0.41 mmol). After purification by flash chromatography (dichloromethane/methanol 94:6) the title compound was obtained as a light grey powder (26 mg).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.48 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | benzylisocyanate | 0.41 mmol, 0.05 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | Benzyl-3-[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-urea | C(C1=CC=CC=C1)NC(=O)NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C24H25N7O2
